US04371637
87.7 parts of an epoxide obtained from 2,2-bis-(4'-hydroxyphenyl)-propane and epichlorohydrin (0.05 epoxy group equivalent, the epoxide containing 0.57 epoxy group equivalent/kg) are dissolved in 27.5 parts of butyl acetate and 5 parts of n-butanol. 2.3 parts of aniline (0.025 mol) and 7.25 parts of a technical mixture of about 75% of C36 dimerised acid and about 25% of C54 trimerised acid, based on linoleic acid and linolenic acid (0.025 acid equivalent, the mixture containing 3.45 acid equivalents/kg) are added to this solution. The reaction mixture is heated to 100° C. and kept at this temperature for 3 hours. Dilution with 65.5 parts of perchloroethylene and 47.8 parts of butyl glycolate gives a clear, viscous solution of the reaction product, the solution having a solids content of 40% and an acid number of 17.

reactant | aniline | 0.025 mol | NC1=CC=CC=C1 | C6H7N
reactant | linolenic acid | CC/C=C\C/C=C\C/C=C\CCCCCCCC(=O)O | C18H30O2
reactant | perchloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
reactant | butyl acetate | C(C)(=O)OCCCC | C6H12O2
solvent | n-butanol | C(CCC)O | C4H10O
product | butyl glycolate | C(CO)(=O)OCCCC | C6H12O3
